US05466699
(a) 1H-Indole-5-carbaldehyde
Raney nickel (6.7 g) was added to a solution of 5-cyanoindole (Aldrich, 10.0 g) and sodium hypophosphite (20.0 g) in a mixture of water (73 ml), glac. acetic acid (73 ml) and pyridine (145 ml) at 45° C. The resulting mixture was stirred at 45° C. for 2 hours, then cooled and filtered through Hyflo. The filtrate was diluted with water and extracted with ethyl acetate. The combined extracts were washed with water, 10% aqu. citric acid. IN aqu. HCl, water and brine, dried and evaporated in vacuo to give the desired product as a buff solid which was recrystallised from chloroform (7.5 g).

reactant | 5-cyanoindole | 10.0 g | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | sodium hypophosphite | 20.0 g | [PH2](=O)[O-].[Na+]
reactant | acetic acid | 73 ml | C(C)(=O)O | C2H4O2
reactant | pyridine | 145 ml | N1=CC=CC=C1 | C5H5N
catalyst | Raney nickel | 6.7 g | [Ni] | Ni
solvent | water | 73 ml | O | H2O
product | 1H-Indole-5-carbaldehyde | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
